datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC(C)(C)[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)=[O:23].OC(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CCC[NH:10]1>>CC(C)(C)[C:22](=[CH:21][CH:20]([NH+:10]1CCC[C@H]1C(O)(C1=CC=CC=C1)C1=CC=CC=C1)[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)[O-:23] 10=20;20,21=21,22;22,23=23"
"CC[O:72][C:61]([C:10]1=[C:11]([O-:12])CCCCC1)=[O:62].Cl[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([C+:20]([C:41]2=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](Cl)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1>>CC[O:72][C:61]([C:10]1([C:20]([C:31]2=[CH:32][C:33](Cl)=[CH:34][CH:35]=[CH:36]2)([C:41]2=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](Cl)=[CH:54][CH:55]=[CH:56]2)CCCCC[C:11]1=[O:12])=[O:62] 10,11=10,20;12=11,12"
"C[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1.[CH:10](=[N+:11]([O-:12])[O-:62])[C:71]1=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:82]=[CH:83]1>>C[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10]([N+:11](=[O:12])[O-:62])[C:71]2=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:82]=[CH:83]2)[CH:21]=[N+:22]([O-:23])[O-:33])[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:82][C:71]([C-:10]1CCCC[C:62]1=[O:61])=[O:72].CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21]2/C3=CC=CC=C3[N+:23](C)=[CH:22]2)[CH:36]=[CH:35]1>>CC[O:82][C:71]([C:10]1([CH:20]([C:21]2=[CH:22][N:23](C)C3=CC=CC=C32)[C:31]2=[CH:32][CH:33]=[C:34](OC)[CH:35]=[CH:36]2)CCCC[C:62]1=[O:61])=[O:72] 10=20;20,21=21,22;22,23=23"
"CC[O:73][C:61](/[C:10](Cl)=[C:11](\[O-:12])[O:82]CC)=[O:62].CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1/C=C/C1=CC=CC=C1>>CC[O:73][C:61]([C:10](Cl)([C:11](=[O:12])[O:82]CC)[CH:20]([CH:21]=[CH:22][N:23]1C(CC2=CC=CC=C2)C(=O)N(C)C1/C=C/C1=CC=CC=C1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:62] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[S+:61](C)([CH2-:10])=[O:62].ClC[N+]12CC[N+:21]([F:20])(CC1)CC2>>C[S+:61](C)([CH2:10][F:20])=[O:62].ClC[N+]12CC[N:21](CC1)CC2 10=20;20,21=21"
"CC[O:72]/[C:11](=[CH:10]/[S+:61](C)C)[O-:12].O=[N+]([O-])[C:43]1=[CH:42][C:21]([N+:22](=[O:23])[O-:33])=[CH:20][S:44]1>>CC[O:72][C:11]([CH:10]([CH:20]1[C:21](=[N+:22]([O-:23])[O-:33])[CH:42]=[C:43]([N+](=O)[O-])[S:44]1)[S+:61](C)C)=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([Si:63](C2=CC=CC=C2)(C2=CC=CC=C2)[CH2:62][CH:11]=[CH2:10])C=C1.FC(F)(F)[S:20][N:21]1[C:22](=[O:23])CC[C:32]1=[O:33]>>C1C[C:32](=[O:33])[N:21]=[C:22]1[O-:23].FC(F)(F)[S:20][CH2:10][CH+:11][CH2:62][Si:63](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10,11=10,20;20,21=21,22;22,23=23"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]/[CH:41]=[CH:42]/C2=CC=C(Cl)C=C2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].ClC1=CC=C([S:61]([CH-:10]Cl)(=[O:62])=[O:72])C=C1>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([CH:10](Cl)[S:61](C2=CC=C(Cl)C=C2)(=[O:62])=[O:72])/[CH:41]=[CH:42]/C2=CC=C(Cl)C=C2)=[CH:22]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].[CH:10]1=[CH:11][NH:12][C:62]2=[C:61]1[CH:72]=[CH:73][CH:64]=[CH:63]2>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([CH:10]2[CH:11]=[NH+:12][C:62]3=[C:61]2[CH:72]=[CH:73][CH:64]=[CH:63]3)[C:41]2=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]2)=[CH:22]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"CC[O:62]/[C:11](=[CH:10]/[C:71]#[N:72])[O-:12].C[N+:23](C)=[CH:22]/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>CC[O:62][C:11]([CH:10]([CH:20]([CH:21]=[CH:22][N:23](C)C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:71]#[N:72])=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1C[CH:32]=[CH:31][C+:20]1[C:41]1=[CH:42][CH:43]=[CH:44][CH:53]=[CH:52]1.C[C:11]1=[N:10][CH:61]=[CH:62][NH:12]1>>C[C:11]1=[NH+:12][CH:62]=[CH:61][N:10]1[C:20]1([C:41]2=[CH:42][CH:43]=[CH:44][CH:53]=[CH:52]2)CC[CH:32]=[CH:31]1 10,11=10,20;12=11,12"
"C[C:20]1=[CH:21][C:22](=[O:23])CCC1.[CH-:10]([C:61]#[N:62])[C:71]1=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:96])[CH:85]=[CH:84]1>>C[C:20]1([CH:10]([C:61]#[N:62])[C:71]2=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:96])[CH:85]=[CH:84]2)CCC[C:22]([O-:23])=[CH:21]1 10=20;20,21=21,22;22,23=23"
"CN(C)C[C@@H]1CCC[NH:10]1.F[S:32](/[CH:21]=[CH:20]/C1=CC=CC=C1)(=[O:33])=[O:34]>>CN(C)C[C@@H]1CCC[NH+:10]1[CH:20](C1=CC=CC=C1)[CH-:21][S:32](F)(=[O:33])=[O:34] 10=20;20,21=21"
"C[C:11](C)=[CH2:10].[O-][N+:22]([C:21]1=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[N:33]=[CH:32]1)=[O:23]>>C[C+:11](C)[CH2:10][CH:20]1[C:21](=[N+:22]([O-])[O-:23])[CH:32]=[N:33][C:34]2=[N:35]O[N+:42]([O-])=[C:41]12 10,11=10,20;20,21=21,22;22,23=23"
